US07846956B2
4.06 g of ethyl 5-(1-hydroxyethyl)-isoxazole-3-carboxylate was dissolved in 100 ml of 1,4-dioxane, and 15.20 g of manganese dioxide was then added. The mixture was stirred and heated under reflux for 5 hours. The reaction mixture was cooled to room temperature and then filtered through Celite®. The filtrate was concentrated under reduced pressure to obtain 3.57 g of ethyl 5-acetylisoxazole-3-carboxylate.

reactant | ethyl 5-(1-hydroxyethyl)-isoxazole-3-carboxylate | 4.06 g | OC(C)C1=CC(=NO1)C(=O)OCC | C8H11NO4
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 15.20 g | [O-2].[O-2].[Mn+4]
product | ethyl 5-acetylisoxazole-3-carboxylate | 3.57 g | C(C)(=O)C1=CC(=NO1)C(=O)OCC | C8H9NO4
